US07214802B2
A suspension of 3.75 g (9.94 mmol) of 3-[2-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-4-methyl-benzoic acid methyl ester and 2.9 g (30 mmol) of KSCN in 25 mL of HOAc was stirred at 100° C. for 4 h. The mixture was allowed to cool overnight before being filtered and washed with cold MeOH. The solids were dried to provide 2.65 g of 3-[4-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-2-mercapto-imidazol-1-yl]-4-methyl-benzoic acid methyl ester as an off-white solid. ESI MS m/z 419 [C23H22N4O2S+H]+.

reactant | 3-[2-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-4-methyl-benzoic acid methyl ester | 9.94 mmol, 3.75 g | COC(C1=CC(=C(C=C1)C)NCC(=O)C=1C=NN(C1CC)C1=CC=CC=C1)=O | C22H23N3O3
reactant | KSCN | 30 mmol, 2.9 g | C(#N)[S-].[K+]
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
product | 3-[4-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-2-mercapto-imidazol-1-yl]-4-methyl-benzoic acid methyl ester | 2.65 g | COC(C1=CC(=C(C=C1)C)N1C(=NC(=C1)C=1C=NN(C1CC)C1=CC=CC=C1)S)=O | C23H22N4O2S
